US04777175
1-(Cyclopropylmethyl)-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid
To 1.0 g (3.36 mmol) of 1-(cyclopropylmethyl)-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 8 ml of acetonitrile was added 0.51 g (3.36 mmol) of 1,8-diazobicyclo[5.4.0]undec-7-ene and 0.43 g (3.36 mmol) of 3-[(ethylamino)methyl]pyrrolidine each in 1 ml of acetonitrile. The mixture was refluxed for two hours and stirred overnight at room temperature. The mixture was filtered, and washed with ether to give 0.935 g of 1-(cyclopropylmethyl)-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecrboxylic acid, mp 185°-188° C.

reactant | 1-(cyclopropylmethyl)-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.36 mmol, 1.0 g | C1(CC1)CN1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C14H10F3NO3
reactant | 3-[(ethylamino)methyl]pyrrolidine | 3.36 mmol, 0.43 g | C(C)NCC1CNCC1 | C7H16N2
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-(Cyclopropylmethyl)-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid | C1(CC1)CN1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)CNCC)F)=O)C(=O)O | C21H25F2N3O3
